US07932262B2
Neat POCl3 (400 mL) was added to 8-methoxyquinazolin-2-ol (5.0 g, 28.4 mmole) with stirring and cooling over an ice bath under argon. After ca. 1 minute, the reaction was removed from the ice bath and stirred at RT for ca. 20 minutes until a fine yellow suspension was formed. The reaction, fitted with a reflux condenser, was heated in an oil bath at 140-145° C. After about 1 hour, the reaction turned clear and colorless. LCMS showed that the reaction was complete. The POCl3 was evaporated under reduced pressure, and dried in vacuo. After 12 hours, the residue was partitioned between EtOAc (300 mL) and sat. NaHCO3 (200 mL). The mixture was stirred cautiously watching gas evolution until the pH reached ˜8. The layers were separated and the organic layer was washed with NaHCO3 (2×100 mL), water with 5% brine (2×100 mL), brine (100 mL), dried (Na2SO4), filtered and evaporated to a yellow solid. The crude product was purified by flash chromatography eluting with 50% EtOAc/Hexane and finishing with 100% EtOAc to produce a white solid after evaporating the correct fractions. The pure 2-chloro-8-methoxyquinazoline was isolated in 89% yield (4.9 g, 25.3 mmole).

reactant | 8-methoxyquinazolin-2-ol | 28.4 mmole, 5.0 g | COC=1C=CC=C2C=NC(=NC12)O | C9H8N2O2
reactant | POCl3 | 400 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-8-methoxyquinazoline | 89% yield | ClC1=NC2=C(C=CC=C2C=N1)OC | C9H7ClN2O
